US08314087B2
5-Bromo-1-(2-(7-methoxyquinolin-4-yloxy)propyl)pyridin-2(1H)-one.
To a stirring solution of 5-bromo-2(1H)-pyridone (100 mg, 575 μmol) in DMF (1 mL) under nitrogen was added sodium hydride (60% dispersion in mineral oil; 27.6 mg, 1149 μmol) and stirred for 10 min. To this suspension was added 4-(2-bromopropoxy)-7-methoxyquinoline (170 mg, 575 μmol) and 4-(1-bromopropan-2-yloxy)-7-methoxyquinoline (170 mg, 575 μmol) mixture in DMF (1 mL). The mixture was stirred at 40° C. for 48 h. The reaction was quenched with 5% NaHCO3 and extracted with CH2Cl2 (4×10 mL). The combined organics were dried over MgSO4, concentrated to a residue from toluene, and purified on 12 grams of silica eluting with 30-60% of 5% (MeOH/CH2Cl2). MS (ESI pos. ion) m/z (MH+): 389/391. Calc'd exact mass for C18H17BrN2O3: 388. 1H NMR (400 MHz, Chloroform-d) δ ppm 1.52 (d, J=6.26 Hz, 3H) 3.90-4.01 (m, 4H) 4.48 (dd, J=13.60, 3.23 Hz, 1H) 5.05-5.14 (m, 1H) 6.45 (d, J=9.59 Hz, 1H) 6.67 (d, J=5.48 Hz, 1H) 7.18 (dd, J=9.19, 2.54 Hz, 1H) 7.24-7.31 (m, 1H) 7.37 (d, J=2.15 Hz, 1H) 7.53 (d, J=2.54 Hz, 1H) 8.01 (d, J=9.19 Hz, 1H) 8.61 (d, J=5.48 Hz, 1H). 13C NMR (101 MHz, Chloroform-d) 8 ppm 17.29, 54.82, 55.55, 71.78, 97.82, 100.08, 107.03, 116.03, 118.81, 121.93, 122.66, 138.56, 143.08, 151.11, 151.41, 160.12, 161.17.

reactant | 5-bromo-2(1H)-pyridone | 575 μmol, 100 mg | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | sodium hydride | 1149 μmol, 27.6 mg | [H-].[Na+]
reactant | 4-(2-bromopropoxy)-7-methoxyquinoline | 575 μmol, 170 mg | BrC(COC1=CC=NC2=CC(=CC=C12)OC)C | C13H14BrNO2
reactant | 4-(1-bromopropan-2-yloxy)-7-methoxyquinoline | 575 μmol, 170 mg | BrCC(C)OC1=CC=NC2=CC(=CC=C12)OC | C13H14BrNO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-1-(2-(7-methoxyquinolin-4-yloxy)propyl)pyridin-2(1H)-one | BrC=1C=CC(N(C1)CC(C)OC1=CC=NC2=CC(=CC=C12)OC)=O | C18H17BrN2O3
